US03966951
2-Hydroxymethyl-3-Bromomethyl-Quinoxaline-1,4-Dioxide ##SPC8##
To a stirred suspension of 2-hyroxymethyl-3-methylquinoxaline-1,4-dioxide (10.3 g., 0.05 mole) in 100 ml. of methanol was added 1.5 ml. (0.055 mole) of bromine over a period of ten minutes at room temperature. The reaction mixture was then stirred for two days. The resulting yellow solid was collected, washed with methanol and ether, and air dried to give 8.9 g. (62 percent yield of the title compound, mp-138°-140°.

reactant | 2-hyroxymethyl-3-methylquinoxaline-1,4-dioxide | 0.05 mole, 10.3 g | OCC1=[N+](C2=CC=CC=C2[N+](=C1C)[O-])[O-] | C10H10N2O3
reactant | bromine | 0.055 mole | BrBr | Br2
solvent | methanol | CO | CH4O
product | 2-Hydroxymethyl-3-Bromomethyl-Quinoxaline-1,4-Dioxide | 62 percent yield | OCC1=[N+](C2=CC=CC=C2[N+](=C1CBr)[O-])[O-] | C10H9BrN2O3
